US07964732B2
Step CA1A: 6-bromo-N-methoxy-N-methylquinoline-2-carboxamide
To a DMF (1 ml) solution of 6-bromoquinoline-2-carboxylic acid (4000 mg, 15.9 mmol, US2005165049A1), triethylamine (6.64 ml, 47.6 mmol), N,O-dimethylhydroxyamine hydrochloride (1860 mg, 19.0 mmol) and HBTU (6620 mg, 17.5 mmol) were added and the mixture was stirred for 24 hours at room temperature. The reaction was quenched with saturated NaHCO3 aqueous solution and water, and the product was extracted with EtOAc 3 times. The combined organic extracts were dried over Na2SO4, and concentrated in vacuo. The crude residue was applied to a silica gel column chromatography and eluted with hexane/ethyl acetate (4:1) to furnish the title compound (4.29 g, 92% yield) as an orange solid. 1H NMR (300 MHz, CDCl3) δ 3.47 (3H, s), 3.80 (3H, s), 7.68-7.80 (1H, brs), 7.81-7.85 (1H, m), 8.00-8.06 (2H, m), 8.17 (1H, d, J=8.1 Hz). MS (ESI): m/z 295, 297 (M+H)+.

reactant | 6-bromoquinoline-2-carboxylic acid | 15.9 mmol, 4000 mg | BrC=1C=C2C=CC(=NC2=CC1)C(=O)O | C10H6BrNO2
reactant | triethylamine | 47.6 mmol, 6.64 ml | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxyamine hydrochloride | 19.0 mmol, 1860 mg | Cl.CNOC
reactant | HBTU | 17.5 mmol, 6620 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-bromo-N-methoxy-N-methylquinoline-2-carboxamide | 4.29 g, 92% yield | BrC=1C=C2C=CC(=NC2=CC1)C(=O)N(C)OC | C12H11BrN2O2
